US06583135B2
Preparation of 3-(3-Benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)-1-propanol
A mixture of 3-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)-2-propyn-1-ol (4.715 g, 13.69 mmol) and 10% Pd/C (0.548 g) in ethanol (75 mL) was hydrogenated under 35 p.s.i. H2 for 3.5 h. The mixture was filtered through celite, rinsed both ethanol, dichloromethane and evaporated. Crystallization from ethyl acetate/hexanes provided 4.230 g of the title compound (mp 144-147° C.). 1H NMR (CDCl3) δ 8.20-8.55, 7.30-7.50, 7.05-7.15, 6.95-7.05, 6.75-6.90, 3.90-4.10, 3.55-3.80, 3.35-3.45, 2.90-3.20, 2.80-2.90, 1.75-2.00.

reactant | 3-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)-2-propyn-1-ol | 13.69 mmol, 4.715 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C#CCO | C22H20N2O2
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.548 g | [Pd] | Pd
product | 3-(3-Benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)-1-propanol | 4.230 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)CCCO | C22H24N2O2
